US05854227
3-Hydroxy-3,3-diphosphonopropanoic acid, tetramethyl ester is converted to 3-(tert-butoxycarbonyloxy)-3,3-bis(diethoxyphosphono)propionic acid and then to 3-(tert-butoxycarbonyloxy)-3,3-bis(diethoxyphosphono)propanoyl chloride. The acid chloride is then added to α-(Z-methoxyimino)-α-(2-aminothiazol-4-yl)-acetic acid and pyridine to form α-(Z-methoxyimino)-α-{2-[3-(tert-butoxycarbonyloxy)-3,3-bis(diethoxyphosphono)-propanoyl-amino]-thiazol-4-yl}-acetic acid. The latter is reacted with oxaloyl chloride to form the acid chloride, α-(Z-methoxyimino)-α-{2-[3-(tert-butoxycarbonyloxy)-3,3-bis(diethoxyphosphono)-propanoyl-amino)-thiazol-4-yl]-acetyl chloride. This acid chloride is reacted with 7β-amino-3-acetoxymethyl-3-cephem-4-carboxylic acid and pyridine and gives 7β-{α-(Z-methoxyimino)-α-[2-(3-tert-butoxycarbonyloxy)-3,3-bis(diethoxyphosphono)propanoyl-amino)-thiazol-4-yl]-acetamido}-3-acetoxymethyl-3-cephem-4-carboxylic acid. Deprotection with trifluoroacetic acid and anisole yields the title compound.

reactant | 3-(tert-butoxycarbonyloxy)-3,3-bis(diethoxyphosphono)propionic acid | C(C)(C)(C)OC(=O)OC(CC(=O)O)(P(=O)(OOCC)OOCC)P(=O)(OOCC)OOCC | C16H32O15P2
reactant | 3-(tert-butoxycarbonyloxy)-3,3-bis(diethoxyphosphono)propanoyl chloride | C(C)(C)(C)OC(=O)OC(CC(=O)Cl)(P(=O)(OOCC)OOCC)P(=O)(OOCC)OOCC | C16H31ClO14P2
reactant | α-(Z-methoxyimino)-α-(2-aminothiazol-4-yl)-acetic acid | CO\N=C(/C(=O)O)\C=1N=C(SC1)N | C6H7N3O3S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | α-(Z-methoxyimino)-α-{2-[3-(tert-butoxycarbonyloxy)-3,3-bis(diethoxyphosphono)-propanoyl-amino]-thiazol-4-yl}-acetic acid | CO\N=C(/C(=O)O)\C=1N=C(SC1)NC(CC(P(=O)(OOCC)OOCC)(P(=O)(OOCC)OOCC)OC(=O)OC(C)(C)C)=O | C22H37N3O17P2S
